US04937355
A. Diethyl cyclohexylmalonate
A suspension of 5% rhodium on carbon (4.5 g) and diethyl phenylmalonate (30 g) in ethanol (100 ml) was hydrogenated at 60 psi for 18 hours. The suspension was filtered through celite and concentrated to a syrup (quant. yield). Distillation at 90°-94° C. (0.5 mmHg) afforded 28.2 g (92%) of the diethyl cyclohexylmalonate.

reactant | diethyl phenylmalonate | 30 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | rhodium on carbon | 4.5 g | [Rh] | Rh
product | Diethyl cyclohexylmalonate | quant. yield | C1(CCCCC1)C(C(=O)OCC)C(=O)OCC | C13H22O4
